US06225318B1
6-Phenyl-3H-quinazolin-4-one
The catalyst was prepared by adding bis-benzonitrile (palladium (II) chloride (140 mg, 0.37 mmol) to a solution of bis-(diphenylphosphine butane) (157 mg, 0.37 mmol) in 18 mL of toluene. The mixture stirred at room temperature for 20 min. 6-iodo-3H-quinazolin-4-one (1.0 gm, 3.67 mmol), phenyl boronic acid (896 mg, 7.35 mmol), 1M aqueous Na2CO3 (3.67 mL, 7.35 mmol) and 9 mL of ethanol were added to the catalyst solution. The reaction mixture was refluxed for 24 hours. Reaction mixture was cooled to room temperature, filtered through celite, washed with saturated aqueous NaHCO3 and dried over Na3SO4. The organic layer was concentrated to a yellow solid and chromatographed on silica gel using 20% hexane/ethyl acetate. Five hundred ten milligrams (63%) of the title compound were isolated.

reactant | diphenylphosphine butane | CCCC.C1(=CC=CC=C1)PC1=CC=CC=C1
reactant | 6-iodo-3H-quinazolin-4-one | 3.67 mmol, 1.0 gm | IC=1C=C2C(NC=NC2=CC1)=O | C8H5IN2O
reactant | phenyl boronic acid | 7.35 mmol, 896 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 7.35 mmol, 1M, 3.67 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) chloride | 0.37 mmol, 140 mg | [Pd](Cl)Cl
solvent | ethanol | 9 mL | C(C)O | C2H6O
product | 6-Phenyl-3H-quinazolin-4-one | Five hundred ten milligrams, 63% | C1(=CC=CC=C1)C=1C=C2C(NC=NC2=CC1)=O | C14H10N2O
